US08466089B2
Preparation of 1-(1,3-dimethyl-4-(3-(2-methoxyethoxy)-2-methyl-4-(methylsulfonyl)benzoyl)-1H-pyrazol-5-yloxy)ethyl methyl carbonate (the following Compound No. 1-6)
5-Hydroxy-1,3-dimethylpyrazol-4-yl 3-(2-methoxyethoxy)-2-methyl-4-(methylsulfonyl)phenyl ketone (300 mg) was dissolved in 2-butanone (10 mL), and potassium carbonate (130 mg) and tetrabutyl ammonium bromide (15 mg) were added. After stirring at room temperature for 10 minutes, 1-chloroethyl methyl carbonate (purity: 85%, 270 mg) was added at room temperature, followed by heating and refluxing for 3 hours. After completion of the reaction, the reaction solution was cooled to room temperature and poured into water and then extracted with ethyl acetate. The organic layer was washed with a 1N hydrochloric solution and a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure. The obtained residue was purified by column chromatography (n-hexane:ethyl acetate=1:1) to obtain the desired product (200 mg) as slightly yellow solid.

reactant | 5-Hydroxy-1,3-dimethylpyrazol-4-yl 3-(2-methoxyethoxy)-2-methyl-4-(methylsulfonyl)phenyl ketone | 300 mg | COCCOC=1C(=C(C=CC1S(=O)(=O)C)C(=O)C=1C(=NN(C1O)C)C)C | C17H22N2O6S
reactant | potassium carbonate | 130 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1-chloroethyl methyl carbonate | 270 mg | C(OC(C)Cl)(OC)=O | C4H7ClO3
reactant | water | O | H2O
solvent | 2-butanone | 10 mL | CC(CC)=O | C4H8O
catalyst | tetrabutyl ammonium bromide | 15 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(1,3-dimethyl-4-(3-(2-methoxyethoxy)-2-methyl-4-(methylsulfonyl)benzoyl)-1H-pyrazol-5-yloxy)ethyl methyl carbonate | 200 mg | C(OC(C)OC1=C(C(=NN1C)C)C(C1=C(C(=C(C=C1)S(=O)(=O)C)OCCOC)C)=O)(OC)=O | C21H28N2O9S
